US05576340
16(a) Ethyl (S)-α-t-butyldimethylsilyoxy-α-phenylacetate
A solution of 31.4 g of t-butyldimethylsilyl chloride in 200 ml of dimethylformamide was added dropwise to a solution of 25 g of ethyl (S)-(+)-mandelate and 28.4 g of imidazole in 800 ml of dimethylformamide, and the resulting mixture was stirred overnight at 40° C. At the end of this time, the dimethylformamide solvent was removed by distillation under reduced pressure, and the resulting residue was purified by column chromatography through silica gel, using a 10:1 by volume mixture of hexane and ethyl acetate as the eluent, to give the title compound having an Rf=0.84 (thin layer chromatography over silica gel, using a 10:1 by volume mixture of hexane and ethyl acetate as the developing solvent).

reactant | t-butyldimethylsilyl chloride | 31.4 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | ethyl (S)-(+)-mandelate | 25 g | C([C@@H](O)C1=CC=CC=C1)(=O)OCC | C10H12O3
reactant | imidazole | 28.4 g | N1C=NC=C1 | C3H4N2
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 800 ml | CN(C=O)C | C3H7NO
product | Ethyl (S)-α-t-butyldimethylsilyoxy-α-phenylacetate | [Si](C)(C)(C(C)(C)C)O[C@H](C(=O)OCC)C1=CC=CC=C1 | C16H26O3Si
